US07211576B2
Dimethyl-[1-(4-nitro-phenyl)-piperidin-4-yl]-amine
Dimethyl-piperidin-4-yl-amine dihydrochloride (Aldrich, 2.0 g, 9.95 mmol) and 4-fluoro-nitrobenzene (Aldrich, 2.5 g, 17.7 mmol) were added to methanol (30 mL). The mixture was heated to 90° C. and stirred for 3.5 hours. The mixture was treated with 1 N HCl to pH=1 and then extracted with diethyl ether (2×10 mL). The aqueous layer was treated with saturated sodium carbonate to pH=10 and then extracted with methylene chloride (2×20 mL). The organic layer was dried with sodium sulfate and the solvent was removed to give the desired product. 1.25 g, 50%. MS (m+H)+: 250.

reactant | Dimethyl-piperidin-4-yl-amine dihydrochloride | 9.95 mmol, 2.0 g | Cl.Cl.CN(C1CCNCC1)C
reactant | 4-fluoro-nitrobenzene | 17.7 mmol, 2.5 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | Dimethyl-[1-(4-nitro-phenyl)-piperidin-4-yl]-amine | CN(C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H19N3O2
